US06514968B1
Pyridinium bromide perbromide (11.9436 g, 0.0373 mol) is added to a mixture of 9-benzyl-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one (8.93 g, 0.0309 mol) in dry THF (42 mL) and dry DMF (30 mL) and the mixture is heated to 75° C. After stirring for 6 h, THF is removed under reduced pressure and the residue is partitioned between dichloromethane and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the combined organic layers are dried over magnesium sulfate and concentrated under high vacuum to give an oil. Hexane is added to the oil and solids precipitated. These solids are upgraded by precipitation from dichloromethane/ethyl acetate/hexane and vacuum dried at room temperature. The soilds are combined with lithium bromide (3.5386 g, 0.041 mol), lithium carbonate (2.7427 g, 0.037 mol) and dry DMF (72 mL) and heated at 120° C. for 1.5 h. DMF then is removed under high vacuum and the mixture is partitioned between dichloromethane and water. The combined organic layers are washed with water and the aqueous layer is backwashed with dichloromethane. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (300 mL) using ethyl acetate/heptane (30/70). The product fractions are rechromatographed on silica gel (200 mL) using ethyl acetate/heptane (10/90) to give 3.75 g (42%) of 9-benzyl-6-methyl-9H-carbazol-4-ol containing a significant amount of 9-benzyl-3-bromo-6-methyl-9H-carbazol-4-ol as an impurity. The material is purified by reduction of the bromide. 9-Benzyl-6-methyl-9H-carbazol-4-ol. The mixture (2.25 g, 0.0078 mol) is dissolved in dry THF (8 mL) is added to a slurry of lithium aluminum hydride (0.7604 g, 0.020 mol) in dry THF (42 mL). The mixture is stirred overnight at 75-80° C. The mixture then is cooled and water (0.8 mL) is added followed by 15% NaOH (0.8 mL) and then water (2.4 mL). The solids are removed by filtration and washed with THF. The filtrate is concentrated to dryness and the residue is chromatographed on silica gel (50 mL) using dichloromethane (100%). Recrystallization from dichloromethane/hexane give 1.48 g (52%) of the title compound; mp 160-161° C.; MS (ESI+) for C20H17NO m/z 288.2 (M+H)+; IR (drift) 3294, 1468, 1450, 1338, 1302, 1281, 1238, 1147, 1117, 790, 779, 746, 720, 714, 703 cm−1; 1H NMR (CDCl3) δ2.54, 5.29, 5.47, 6.57, 6.93, 7.12, 7.23, 8.12. Anal. Calcd for C20H17NO: C, 83.59; H, 5.96; N, 4.87. Found: C, 83.51; H, 6.03; N, 4.94.

reactant | Pyridinium bromide perbromide | 0.0373 mol, 11.9436 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-benzyl-6-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0309 mol, 8.93 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(CCCC12)=O)C | C20H19NO
reactant | lithium bromide | 0.041 mol, 3.5386 g | [Br-].[Li+]
reactant | lithium carbonate | 0.037 mol, 2.7427 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 42 mL | C1CCOC1 | C4H8O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 72 mL | CN(C)C=O | C3H7NO
solvent | Hexane | CCCCCC | C6H14
product | 9-benzyl-6-methyl-9H-carbazol-4-ol | 3.75 g, 42% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)O)C | C20H17NO
